US04582857
(a) 4-(4'-tert.-butylphenyl)-1,2-epoxybutane
A Grignard solution freshly prepared from 12.15 g (0.50 gram atom) magnesium chips and 91.7 g (0.50 mole) 4-tert.-butylbenzyl chloride in 550 ml dry ether is dripped with agitation into a precooled solution of 92.5 g (1.00 mole) epichlorohydrin in 165 ml dry ether, so that the temperature does not exceed -40° C. After addition is complete, the cooling bath is removed, the solution is allowed to stand for several hours at room temperature, and then hydrolyzed with ice water and dilute hydrochloric acid. The ether phase is separated, washed with water and dried over sodium sulfate. After the ether has been drawn off, the bath temperature is raised to 80° C. and the volatile components carefully removed at 0.1 mbar. The residue is taken up in 270 ml methanol and a freshly prepared solution of 6.90 g (0.30 g atom) sodium in 200 ml methanol added at room temperature. After three hours the sodium chloride precipitated is separated, the filtrate concentrated in vacuum, the residue taken up in ether and washed with water. After drying over sodium sulfate the solvent is removed and the oily residue distilled in vacuum. A colorless liquid with a boiling point of 79°-81° C./0.1 mbar is obtained.

reactant | magnesium | 12.15 g | [Mg] | Mg
reactant | 4-tert.-butylbenzyl chloride | 0.50 mole, 91.7 g | C(C)(C)(C)C1=CC=C(CCl)C=C1 | C11H15Cl
reactant | epichlorohydrin | 1.00 mole, 92.5 g | C(Cl)C1CO1 | C3H5ClO
solvent | ether | 550 ml | CCOCC | C4H10O
solvent | ether | 165 ml | CCOCC | C4H10O
product | 4-(4'-tert.-butylphenyl)-1,2-epoxybutane | C(C)(C)(C)C1=CC=C(C=C1)CCC1CO1 | C14H20O
